US06743924B2
4-Amino-4′-methoxybutyrophenone trifluoromethanesulfonate (60 g, 174.8 mmol) was dissolved in tetrahydrofuran/water-1/1 (600 ml) and 10% palladium carbon (water-containing product, 6 g) was added. The mixture was subjected to catalytic reduction at 50° C. for 7 hours under hydrogen pressure (0.8 Mpa). The catalyst was filtered off and toluene (360 ml) and 2N-potassium hydroxide (180 ml) were added. The mixture was partitioned and the aqueous layer was extracted with toluene (360 ml). The organic layers were combined and washed with 20% brine (3 times). To the residue obtained by concentration under reduced pressure was added 2-propanol (300 ml) and con. hydrochloric acid (34 ml) was added dropwise under ice-cooling. To the residue obtained by concentration under reduced pressure was added 2-propanol (300 ml) and the mixture was concentrated under reduced pressure. 2-Propanol (300 ml) was added and the mixture was concentrated under reduced pressure. To the obtained residue was added isopropyl ether (200 ml) and the mixture was stirred at room temperature for 10 min. The precipitated crystals were collected by filtration and dried under reduced pressure to give 1-(4-aminobutyl)-4-methoxybenzene hydrochloride (32.1 g, yield 85%).

reactant | 4-Amino-4′-methoxybutyrophenone trifluoromethanesulfonate | 174.8 mmol, 60 g | FC(S(=O)(=O)O)(F)F.NCCCC(=O)C1=CC=C(C=C1)OC
reactant | 2-propanol | 300 ml | CC(C)O | C3H8O
reactant | hydrochloric acid | 34 ml | Cl | ClH
reactant | 2-propanol | 300 ml | CC(C)O | C3H8O
solvent | 2-(4-phenylbutyl)-2H-1,2,3-triazole | 600 ml | C1(=CC=CC=C1)CCCCN1N=CC=N1 | C12H15N3
catalyst | palladium carbon | 6 g | [C].[Pd]
product | 1-(4-aminobutyl)-4-methoxybenzene hydrochloride | 32.1 g, yield 85% | Cl.NCCCCC1=CC=C(C=C1)OC | InChI=1S/C11H17NO.ClH/c1-13-11-7-5-10(6-8-11)4-2-3-9-12;/h5-8H,2-4,9,12H2,1H3;1H
